US04014920
13.0 g (0.05 mol) of p-(2-acetylaminovinyl)-acetoxy-benzene are suspended in 100 ml of absolute methanol, a solution of 2.8 g (0.05 mol) of sodium methoxide in 20 ml of absolute methanol is added and thereafter the mixture is warmed to 50°C for 15 minutes. It is then evaporated to dryness in vacuo. The resulting crude phenolate of p-(2-acetylaminovinyl)-phenol is heated with 65 ml of epichlorohydrin to the boil for 18 hours, under a reflux condenser and whilst stirring. Thereafter, the excess epichlorohydrin is removed by vacuum distillation. The residue is partitioned between water and ethyl acetate and the organic phase is siphoned off, dried over sodium sulphate and evaporated. After crystallisation of the crude product, thus obtained, from acetone-ether, 1-[p-(2-acetylaminovinyl)-phenoxy]-2,3-epoxy-propane of melting point 135°-137°C is obtained.

reactant | p-(2-acetylaminovinyl)-acetoxy-benzene | 0.05 mol, 13.0 g | C(C)(=O)NC=CC1=CC=C(C=C1)OC(C)=O | C12H13NO3
reactant | sodium methoxide | 0.05 mol, 2.8 g | C[O-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
product | 1-[p-(2-acetylaminovinyl)-phenoxy]-2,3-epoxy-propane | C(C)(=O)NC=CC1=CC=C(OCC2CO2)C=C1 | C13H15NO3
